US04962195
Cefadroxil monomethylformamide solvate (30 g) prepared according to Example 3 was slurried in 150 ml of a mixture 1:1 of methanol and isopropyl alcohol at 52° C. After 70' at 52° C. the mixture was cooled to 10° C., filtered and washed with acetone to yield 23.2 g of crystalline cefadroxil hemihydrate.

reactant | Cefadroxil monomethylformamide | 30 g | CC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)[C@@H](C=3C=CC(=CC3)O)N)SC1)C(=O)O.CNC=O
reactant | methanol | CO | CH4O
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | cefadroxil hemihydrate | 23.2 g | CC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)[C@@H](C3=CC=C(C=C3)O)N)SC1)C(=O)O.CC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)[C@@H](C3=CC=C(C=C3)O)N)SC1)C(=O)O.O | InChI=1S/2C16H17N3O5S.H2O/c2*1-7-6-25-15-11(14(22)19(15)12(7)16(23)24)18-13(21)10(17)8-2-4-9(20)5-3-8;/h2*2-5,10-11,15,20H,6,17H2,1H3,(H,18,21)(H,23,24);1H2/t2*10-,11-,15-;/m11./s1
